US08039479B2
To a solution of the 5-isopropoxy-6-nitro-2-piperidin-4-yl-isoindole-1,3-dione generated in the previous step in THF (5 mL) and methanol (5 mL) are added formaldehyde (30 uL, 0.4 mmol) and 2 drops of AcOH sequentially. The reaction mixture is stirred at room temperature for 1 h, then sodium cyanoborohydride (50.4 mg, 0.8 mmol) is added in one portion and the resulting mixture is stirred for an additional 30 min. The reaction is quenched by the addition of saturated aqueous NH4Cl followed by concentration in vacuo to give an oily residue. This oil is partitioned between EtOAc and brine. The organic extract is dried over Na2SO4, filtered and concentrated. Silica gel chromatography (5% MeOH in DCM) affords 5-isopropoxy-2-(1-methyl-piperidin-4-yl)-6-nitro-indan-1,3-dione; MS m/z 347.2 (M+1).

reactant | 5-isopropoxy-6-nitro-2-piperidin-4-yl-isoindole-1,3-dione | C(C)(C)OC=1C=C2C(N(C(C2=CC1[N+](=O)[O-])=O)C1CCNCC1)=O | C16H19N3O5
reactant | methanol | 5 mL | CO | CH4O
reactant | formaldehyde | 0.4 mmol, 30 uL | C=O | CH2O
reactant | sodium cyanoborohydride | 0.8 mmol, 50.4 mg | C(#N)[BH3-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | AcOH | 2 drops | CC(=O)O | C2H4O2
product | 5-isopropoxy-2-(1-methyl-piperidin-4-yl)-6-nitro-indan-1,3-dione | C(C)(C)OC=1C=C2C(C(C(C2=CC1[N+](=O)[O-])=O)C1CCN(CC1)C)=O | C18H22N2O5
